US07473797B2
5-[4-(4-Ethoxycarbonyl-but-3-en-1-ynyl)-phenyl]-pent-2-en-4-ynoic acid ethyl ester (Table 2, entry 8):
The general procedure was used to convert 1,4-Diethynyl-benzene and (Z)-ethyl-3-iodoacrylate to the title product in 12 hours. Purification by flash chromatography (10% ethyl acetate in hexane as the eluent) gave the analytically pure product as a light yellow solid (560 mg, 87% yield). 1H NMR (400 MHz, CDCl3) δ 7.50 (s, 4H), 6.37-6.34 (d, J=11.4, 2H), 6.17-6.14 (d, J=11.4, 2H), 4.28-4.23 (q, J=7.1, 4H), 1.34-1.30 (t, J=7.1, 6H). 13C NMR (100 MHz, CDCl3) δ 164.57, 131.88, 128.72, 123.31, 122.34, 100.27, 88.36, 60.39, 14.21. Anal. Calcd. for C20H18O4: C, 74.52; H, 5.63; Found C, 74.33; H, 5.71. m.p.: 73.0°-74.0° C.

reactant | 1,4-Diethynyl-benzene | C(#C)C1=CC=C(C=C1)C#C | C10H6
reactant | (Z)-ethyl-3-iodoacrylate | C(C)OC(\C=C/I)=O | C5H7IO2
product | 5-[4-(4-Ethoxycarbonyl-but-3-en-1-ynyl)-phenyl]-pent-2-en-4-ynoic acid ethyl ester | C(C)OC(C=CC#CC1=CC=C(C=C1)C#CC=CC(=O)OCC)=O | C20H18O4
